US06130217
PREPARATION of 4-Benzhydryl-1-(3-hydroxypropyl)piperidine
4-Benzhydrylpiperidine (10 mmol, 2.87 g) is slurried in n-butanol (30 mL), and K2CO3 (s) (2.76 g, 10 mmol) or diisopropylethylamine (20 mmol, 2.5 g) and 3-bromopropanol (10 mmol, 1.39 g) are added to the slurry. The stirred mixture is refluxed for about 7 hours under N2 (g), filtered, and concentrated in vacuo. The residue is dissolved in hot CHCl3, filtered and concentrated in vacuo to yield crude product as an oil (3.0-3.1 g) which is used without further purification.

reactant | 4-Benzhydrylpiperidine | 10 mmol, 2.87 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCNCC1 | C18H21N
reactant | K2CO3 | 10 mmol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | diisopropylethylamine | 20 mmol, 2.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-bromopropanol | 10 mmol, 1.39 g | BrCCCO | C3H7BrO
solvent | n-butanol | 30 mL | C(CCC)O | C4H10O
product | 4-Benzhydryl-1-(3-hydroxypropyl)piperidine | 3.0-3.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)CCCO | C21H27NO
